US06307092B1
(E)-3-(2,5-Dibromothiophene-3-yl)acrylic Acid Methyl Ester
To 2,5-Dibromothiophene (1.5 g, 6.2 mmol in TBF (30 mL) cooled to −78° C. was added lithium diisopropylamide (6.2 mL, 6.2 mmol; 1.0M in THF, 6.2 mmol;) dropwise. The mixture was stirred 5 min, and was quenched with DMF (1.4 g, 18.6 mmol). Stirring was continued for 15 min at −78° C. and water was added. The THF was evaporated, Et2O was added and the organic phase was separated and washed with water, 1% HCl, water (3×) and brine. The organic phase was passed through a silica plug and toluene (20 mL) was added. Methyl(triphenylphosphonanylidene) acetate (3.34 g, 10.0 mmol) was added at 23° C. and the mixture was stirred for 12 h. The solvents were then evaporated, ether was added and the mixture was passed through a silica plug. The mixture was concentrated in vacuo and dried overnight via high vacuum and 585 mg of the above named enoate was obtained as a tan solid.

reactant | 2,5-Dibromothiophene | BrC=1SC(=CC1)Br | C4H2Br2S
reactant | lithium diisopropylamide | 6.2 mmol, 1.0M, 6.2 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | DMF | 18.6 mmol, 1.4 g | CN(C)C=O | C3H7NO
reactant | water | O | H2O
product | (E)-3-(2,5-Dibromothiophene-3-yl)acrylic Acid Methyl Ester | COC(\C=C\C1=C(SC(=C1)Br)Br)=O | C8H6Br2O2S
